US04505913
In a manner analogous to that described in Example 1, the reaction of 5-(N-methylsulfamoyl)-isatoic anhydride with 1-methylpiperazine yields 5-(N-methylsulfamoyl)-anthranilic acid (4-methyl)-piperazide in the form of an oil (melting point of the methanesulfonate: 120°-123°).

reactant | 5-(N-methylsulfamoyl)-isatoic anhydride | CNS(=O)(=O)C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C9H8N2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 5-(N-methylsulfamoyl)-anthranilic acid (4-methyl)-piperazide | CN1CCN(CC1)C(C=1C(N)=CC=C(C1)S(NC)(=O)=O)=O | C13H20N4O3S
